US06943159B1
7-Nitro-1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide:
A stirred solution of 1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide (222 mg; 1 mmol) in H2SO4 (2 ml) at 5° C. was added a solution of KNO3 (122 mg; 1.2 mmol) in H2SO4 (2 ml). The reaction mixture was allowed to warm up to rt. and stirred for 2 h. The reaction mixture was poured into ice water, filtered and air dried to give 190 mg (71%) product.

reactant | 1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 1 mmol, 222 mg | C1CCC2=NS(C3=C(N21)C=CC=C3)(=O)=O | C10H10N2O2S
reactant | KNO3 | 1.2 mmol, 122 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
product | 7-Nitro-1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 190 mg, 71% | [N+](=O)([O-])C1=CC2=C(N3C(=NS2(=O)=O)CCC3)C=C1 | C10H9N3O4S
